US04661591
A mixture of 5.0 g (0.0164 mole) of 1,3-dichloro-4,5-dihydrodithieno[3,4-b:3',4'-e]azepine-5,9-dione, 4 g of 5% strength Pd/C, 6.3 g (0.034 mole) of tributylamine and 300 ml of propanol was stirred in a hydrogen atmosphere at 80° C. When absorption of hydrogen was complete (after 5 hours), the hot mixture was filtered and the filtrate was poured onto ice water. The resulting suspension was acidified with concentrated hydrochloric acid, and the mixture was then stirred for a short time and filtered under suction. The residue from filtration of the crude reaction mixture was washed several times with hot dimethylformamide. The dimethylformamide used for washing was poured onto ice water, and the precipitate formed was filtered off under suction. The solid thus obtained was combined with the solid product obtained from the propanol filtrate. The total solid product was washed with water and then dried at 50° C. in a drying oven under reduced pressure. 2.9 g (75%) of 4,5-dihydrodithieno[3,4-b:3',4'-e]azepine-5,9-dione were obtained in the form of beige crystals of melting point 268°-271° C.

reactant | 1,3-dichloro-4,5-dihydrodithieno[3,4-b:3',4'-e]azepine-5,9-dione | 0.0164 mole, 5.0 g | ClC=1SC(=C2NC(C=3C(C(C21)=O)=CSC3)=O)Cl | C10H3Cl2NO2S2
reactant | tributylamine | 0.034 mole, 6.3 g | C(CCC)N(CCCC)CCCC | C12H27N
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | [Pd] | Pd
solvent | propanol | C(CC)O | C3H8O
solvent | propanol | 300 ml | C(CC)O | C3H8O
product | 4,5-dihydrodithieno[3,4-b:3',4'-e]azepine-5,9-dione | 2.9 g, 75% | C=1SC=C2NC(C=3C(C(C21)=O)=CSC3)=O | C10H5NO2S2
